### PR TITLE
progress

### PR DESCRIPTION
**Pull request by traiansf**

### CODE REVIEW

File: theories/VLSM/Core/Validator.v [hunk 1]
```diff
@@ -335,6 +352,34 @@ Proof.
...
+Lemma component_projection_validator_prop_is_induced
+  : component_projection_validator_prop <->
+    @projection_validator_prop _ X (IM i) (composite_project_label IM i) (fun s => s i).
+Proof.
+  split.
+  - intros Hvalidator li si omi Hvi.
+    apply (VLSM_eq_input_valid (composite_vlsm_constrained_projection_is_induced IM constraint i)).
+    apply projection_valid_input_valid.
+    apply Hvalidator.
+    assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:364]:
```suggestion
    apply projection_valid_input_valid, Hvalidator, Hvi.
```

File: theories/VLSM/Core/Validator.v [hunk 2]
```diff
@@ -335,6 +352,34 @@ Proof.
...
+  - intros Hvalidator li (si, omi) Hvi.
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:365]: Note that you have a very similar `intros` in the previous subgoal, except that there you had `si omi` and here you have `(si, omi)` as a pair. This is a bit inconsistent - one definition uses these things separately, whereas the other collects them in a pair. I would try to refactor.

File: theories/VLSM/Core/Validator.v [hunk 3]
```diff
@@ -335,6 +352,34 @@ Proof.
...
+    apply (VLSM_eq_input_valid (composite_vlsm_constrained_projection_is_induced IM constraint i)).
+    revert Hvi.
+    apply VLSM_incl_input_valid.
+    apply pre_loaded_with_all_messages_validator_proj_incl.
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:369]:
```suggestion
apply VLSM_incl_input_valid, pre_loaded_with_all_messages_validator_proj_incl.
```

File: theories/VLSM/Core/Validator.v [hunk 4]
```diff
@@ -335,6 +352,34 @@ Proof.
...
+    + apply component_projection_to_preloaded.
+    + apply component_transition_projection_None.
+    + apply component_label_projection_lift.
+    + apply component_state_projection_lift.
+    + intros isi.
+      apply (lift_to_composite_state_initial IM).
```
Comment (wkolowski) [inline theories/VLSM/Core/Validator.v:375]: I think it's quite weird that you can't simply `apply lift_to_composite_state_initial` without specifying `IM` as the argument. What is the reason for this?

```suggestion
    + intros isi. apply (lift_to_composite_state_initial IM).
```

File: theories/VLSM/Core/AnnotatedVLSM.v [hunk 5]
```diff
@@ -178,3 +186,223 @@ Proof.
...
+  := projection_induced_vlsm AnnotatedFree (type (IM i))
+    annotated_composite_label_project annotated_composite_state_project
+    annotated_composite_label_lift annotated_composite_state_lift.
+
+Lemma annotated_composite_induced_projection_transition_None
+  : weak_projection_transition_consistency_None _ _ annotated_composite_label_project annotated_composite_state_project.
+Proof.
+  intros (j, lj).
+  unfold annotated_composite_label_project, composite_project_label.
+  cbn.
```
Comment (palmskog) [inline theories/VLSM/Core/AnnotatedVLSM.v:304]:
```suggestion
  unfold annotated_composite_label_project, composite_project_label; cbn.
```
This may seem a nitpicky comment, but points to larger pattern, which is that to avoid very long proof scripts that are difficult to maintain, we want to do`<tactic>; cbn.`, or just `unfold X, simpl.`.

That is, we want to combine together basic operations like introducing and processing variables with simplifications like `cbn` and `simpl`. Compare MathComp where one often does things like `rewrite X /=`, which chains a rewrite with simplification.

**Review by palmskog — APPROVED** [review]
This looks good in general and is fine by me to merge, but maybe you'd consider doing a small proof script pass according the comment...

File: theories/VLSM/Core/AnnotatedVLSM.v (hunk 5 above)
Comment (wkolowski) [reply theories/VLSM/Core/AnnotatedVLSM.v:304]: I agree and have pointed this (and similar cases) out a few times already. You should try to combine closely related atomic proof steps (like `unfold`, `rewrite`, `cbn` or `apply`) with `;` to create more high-level proof steps.

**Review by palmskog — APPROVED** [review]
I think this looks good from a proof engineering perspective now, feel free to merge if we want to release this @traiansf.

File: theories/VLSM/Core/AnnotatedVLSM.v [hunk 6]
```diff
@@ -170,3 +178,223 @@ Proof.
...
+    destruct (vtransition _ _ _) as (si', om').
+    intros [_ Ht].
+    inversion Ht.
+    apply state_update_neq.
+    congruence.
+  - intros (s, ann). cbn.
+    intros [Hs _].
+    apply Hs.
+  - intro; intros.
+    apply any_message_is_valid_in_preloaded.
```
Comment (wkolowski) [inline theories/VLSM/Core/AnnotatedVLSM.v:283]: Too many atomic tactics, not enough `;`s.

```suggestion
  apply basic_VLSM_projection.
  - intros [_i _li] li.
    unfold annotated_composite_label_project, composite_project_label; cbn.
    case_decide; [| congruence].
    subst _i; cbn; inversion_clear 1.
    intros (s, ann) om (_ & _ & [Hv _] & _) _ _.
    assumption.
  - intros [_i _li] li.
    unfold annotated_composite_label_project, composite_project_label; cbn.
    case_decide; [| congruence].
    subst _i; cbn; inversion_clear 1.
    intros [s ann] iom [s' ann'] oom.
    unfold input_valid_transition; cbn
    ; unfold annotated_transition; cbn
    ; destruct (vtransition _ _ _) as (si', om').
    intros [_ Ht]; inversion Ht.
    f_equal; symmetry.
    apply state_update_eq.
  - intros [j lj].
    unfold annotated_composite_label_project, composite_project_label; cbn.
    case_decide as Hij; [congruence |].
    intros _ [s ann] iom [s' ann'] oom.
    unfold input_valid_transition; cbn
    ; unfold annotated_transition; cbn
    ; destruct (vtransition _ _ _) as (si', om').
    intros [_ Ht]; inversion Ht.
    apply state_update_neq; congruence.
  - intros [s ann] [Hs _]; cbn; apply Hs.
  - intro; intros; apply any_message_is_valid_in_preloaded.
```

File: theories/VLSM/Core/AnnotatedVLSM.v [hunk 7]
```diff
@@ -170,3 +178,223 @@ Proof.
...
+  cbn.
+  unfold annotated_transition.
+  cbn.
+  destruct (vtransition _ _ _) as (si', om').
+  inversion 1.
+  subst om' s'X.
+  clear Ht.
+  cbn.
+  rewrite state_update_neq by congruence.
+  reflexivity.
```
Comment (wkolowski) [inline theories/VLSM/Core/AnnotatedVLSM.v:304]:
```suggestion
  intros [j lj].
  unfold annotated_composite_label_project, composite_project_label; cbn.
  case_decide as Hij; [congruence |].
  intros _ sX omX s'X om'X [_ Ht]; revert Ht; cbn.
  unfold annotated_transition; cbn
  ; destruct (vtransition _ _ _) as (si', om')
  ; inversion 1; clear Ht; subst om' s'X; cbn.
  rewrite state_update_neq by congruence; reflexivity.
```

File: theories/VLSM/Core/AnnotatedVLSM.v [hunk 8]
```diff
@@ -170,3 +178,223 @@ Proof.
...
+Proof.
+  apply component_label_projection_lift with (constraint := free_constraint IM).
+Qed.
+
+Lemma annotated_composite_induced_projection_state_lift
+  : induced_projection_state_lift_prop _ _
+    annotated_composite_state_project annotated_composite_state_lift.
+Proof.
+  intros si.
+  apply state_update_eq.
```
Comment (wkolowski) [inline theories/VLSM/Core/AnnotatedVLSM.v:319]:
```suggestion
  intros si; apply state_update_eq.
```

File: theories/VLSM/Core/AnnotatedVLSM.v [hunk 9]
```diff
@@ -170,3 +178,223 @@ Proof.
...
+  clear Heq.
+  intros sX2' oom2.
+  intro Heq.
+  inversion Heq.
+  subst.
+  clear Heq.
+  split; [|reflexivity].
+  cbn.
+  rewrite !state_update_eq.
+  reflexivity.
```
Comment (wkolowski) [inline theories/VLSM/Core/AnnotatedVLSM.v:364]: Another case of insufficient use of `;`.

```suggestion
  intros [i1 li1] [i2 li2] li.
  unfold annotated_composite_label_project, composite_project_label; cbn.
  case_decide as Hi1; [| congruence].
  subst i1; cbn; inversion_clear 1.
  case_decide as Hi2; [| congruence].
  subst i2; cbn; inversion_clear 1.
  intros [s1 ann1] [s2 ann2]
  ; unfold annotated_transition; cbn
  ; intros <- iom sX1' oom1
  ;destruct (vtransition _ _ _) as (si', om').
  inversion_clear 1; intros sX2' oom2; inversion_clear 1.
  split; [cbn | reflexivity].
  rewrite !state_update_eq; reflexivity.
```

File: theories/VLSM/Core/ByzantineTraces.v [hunk 10]
```diff
@@ -432,18 +432,11 @@ included in <<X>> to prove our main result.
...
-          clear -Hiv.
-          destruct Hiv as [_ [_ [_ [Hinput _]]]].
-          destruct Hinput as [s Hinput].
-          exists s.
-          revert Hinput.
-          apply (constraint_subsumption_valid_state_message_preservation IM constraint).
-          intro. intros. destruct som. apply H.
+          destruct iom as [im|]; [|apply option_valid_message_None].
+          eapply Hvalidator.
+          split; [eassumption|]. split; [|eassumption].
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces.v:437]:
```suggestion
          eapply Hvalidator; split; [eassumption |]; split; [| eassumption].
```

File: theories/VLSM/Core/ByzantineTraces/LimitedByzantineTraces.v [hunk 11]
```diff
@@ -247,3 +246,239 @@ Proof.
...
+    destruct (decide (i = j)) as [| Hij]; subst.
+    + unfold lift_sub_state; rewrite lift_sub_state_to_eq with (Hi0 := Hi).
+      rewrite !state_update_eq; reflexivity.
+    + rewrite state_update_neq by congruence.
+      unfold lift_sub_state.
+      destruct (decide (j ∈ set_diff (enum index) byzantine)) as [Hj|].
+      * rewrite !lift_sub_state_to_eq with (Hi0 := Hj).
+        rewrite sub_IM_state_update_neq by congruence.
+        reflexivity.
+      * rewrite !lift_sub_state_to_neq by assumption; reflexivity.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/LimitedByzantineTraces.v:342]: I would put all these `rewrite`s and `unfold`s into one big tactic, so that when you look at the proof script you only see the initial and final proof states, without the intermediate ones.

```suggestion
  destruct sub_l as [sub_i li]; destruct_dec_sig sub_i i Hi Heqsub_i; subst.
  repeat split; cbn.
  - assumption.
  - destruct iom as [im |]; [| apply option_valid_message_None].
    eapply Hvalidator,
      pre_loaded_sub_composite_input_valid_projection, Ht_sub.
  - unfold lift_sub_state in Hann_s_pr.
    rewrite Hann_s_pr, lift_sub_state_to_eq with (Hi0 := Hi).
    apply Ht_sub.
  - apply Rle_trans with (sum_weights (remove_dups byzantine))
    ; [| assumption].
    apply sum_weights_subseteq.
    + cut (NoDup (state_annotation ann_s)).
      {
        intro Hnodup.
        destruct iom as [im |]; [| assumption].
        apply set_union_nodup_left; assumption.
      }
      eapply coeqv_limited_equivocation_state_annotation_nodup; eassumption.
    + apply NoDup_remove_dups.
    + intro; rewrite elem_of_remove_dups; apply Heqv_byzantine.
  - clear -Ht_sub Hann_s_pr.
    destruct Ht_sub as [_ Ht_sub]; revert Ht_sub
    ; unfold annotated_transition; cbn
    ; rewrite Hann_s_pr; unfold lift_sub_state at 1
    ; rewrite lift_sub_state_to_eq with (Hi0 := Hi)
    ; unfold sub_IM at 2; cbn
    ; destruct (vtransition _ _ _) as (si', om')
    ; inversion_clear 1.
    do 2 f_equal; extensionality j.
    destruct (decide (i = j)) as [| Hij]; subst.
    + unfold lift_sub_state; rewrite lift_sub_state_to_eq with (Hi0 := Hi).
      rewrite !state_update_eq; reflexivity.
    + rewrite state_update_neq by congruence.
      unfold lift_sub_state.
      destruct (decide (j ∈ set_diff (enum index) byzantine)) as [Hj |].
      * rewrite !lift_sub_state_to_eq with (Hi0 := Hj),
                sub_IM_state_update_neq by congruence
        ; reflexivity.
      * rewrite !lift_sub_state_to_neq by assumption; reflexivity.
```

**Review by wkolowski — APPROVED** [review]
Looks good, I will commit some improvements.
